US04374052
55.0 g (0.275 mole) of a 20% aqueous sodium hydroxide solution was added dropwise to a mixture of 90.0 g (0.5 mole) of tricyclo[5.2.1.02,6 ]decane-2-carboxylic acid (mixture of endo- and exo-compounds) and 69.3 g (0.55 mole) of dimethyl sulfate over one hour under stirring at 50° C. After completion of the addition, stirring was continued at that temperature for 30 minutes. After completion of the stirring, the mixture was allowed to stand at room temperature for a while to form layers. The lower aqueous layer was taken out. The temperature was elevated again to 50° C. 55.0 g (0.275 mole) of sodium hydroxide in a 20% aqueous solution was added dropwise to the remainder over one hour under stirring at 50° C. After completion of the addition, the mixture was stirred at that temperature for 30 minutes. Then, 16.5 g (0.0825 mole) of a 20% aqueous sodium hydroxide solution was added thereto and the whole mixture was stirred at 100° C. for 45 minutes in order to decompose unreacted dimethyl sulfate. The mixture was allowed to cool and divided into layers. After the distillation, 88.3 g (yield 91.0%) of pure methyl tricyclo[5.2.1.02,6 ]decane-2-carboxylate was obtained.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | tricyclo[5.2.1.02,6 ]decane-2-carboxylic acid | 0.5 mole, 90.0 g | C12C3(CCCC3C(CC1)C2)C(=O)O | C11H16O2
reactant | dimethyl sulfate | 0.55 mole, 69.3 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | sodium hydroxide | 0.275 mole, 55.0 g | [OH-].[Na+]
product | methyl tricyclo[5.2.1.02,6 ]decane-2-carboxylate | 88.3 g, yield 91.0% | C12C3(CCCC3C(CC1)C2)C(=O)OC | C12H18O2
